US08071588B2
5-[({3′-[((3S)-4-{[(1,1-Dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]-3-biphenylyl}methyl)amino]-5-oxopentanoic acid
A mixture of glutaric anhydride (31 mg, 0.27 mmol) and 1,1-dimethylethyl (2S)-4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate (100 mg, 0.24 mmol) in THF (5 mL) was stirred at room temperature for about 10 min. It was concentrated. Purification via a CombiFlash (MeOH/DCM) system then afforded the desired product (70 mg).

reactant | glutaric anhydride | 0.27 mmol, 31 mg | C1(CCCC(=O)O1)=O | C5H6O3
reactant | 1,1-dimethylethyl (2S)-4-{[3′-(aminomethyl)-3-biphenylyl]methyl}-2-methyl-1-piperazinecarboxylate | 0.24 mmol, 100 mg | NCC=1C=C(C=CC1)C1=CC(=CC=C1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C24H33N3O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-[({3′-[((3S)-4-{[(1,1-Dimethylethyl)oxy]carbonyl}-3-methyl-1-piperazinyl)methyl]-3-biphenylyl}methyl)amino]-5-oxopentanoic acid | 70 mg | CC(C)(C)OC(=O)N1[C@H](CN(CC1)CC=1C=C(C=CC1)C1=CC(=CC=C1)CNC(CCCC(=O)O)=O)C | C29H39N3O5
